US06071932
1-(3-(9H-Carbazol-9-yl)-2-hydroxy-1-propyl)-4-(4-methoxyphenyl)piperidin-4-ol hydrochloride (Compound 21)
4-(4-Methoxyphenyl)piperidin-4-ol (0.50 g, 0.0024 mol) was dissolved in 4-methyl-pentan-2-one (35 mL), K2CO3 (1.33 g, 0.0096 mol) and 9-(3-chloro-2-hydroxy-1-propyl)carbazole (0.42 g, 0.0016 mol) were added, and the resulting mixture was stirred at reflux temperature overnight. The reaction mixture was filtered and the solvent was removed in vacuo. The residual oil was purified on a silica gel column (Eluent: CH2Cl2 /ethanol/25% NH4OH (aq) (92.75:7:0.25)). The product was acidified with 2M HCl(g) in diethyl ether, to give the title compound 0.39 g (51%). M.p. decomposes at 125° C.

reactant | 4-(4-Methoxyphenyl)piperidin-4-ol | 0.0024 mol, 0.50 g | COC1=CC=C(C=C1)C1(CCNCC1)O | C12H17NO2
reactant | K2CO3 | 0.0096 mol, 1.33 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 9-(3-chloro-2-hydroxy-1-propyl)carbazole | 0.0016 mol, 0.42 g | ClCC(CN1C2=CC=CC=C2C=2C=CC=CC12)O | C15H14ClNO
solvent | 4-methyl-pentan-2-one | 35 mL | CC(CC(C)=O)C | C6H12O
product | 1-(3-(9H-Carbazol-9-yl)-2-hydroxy-1-propyl)-4-(4-methoxyphenyl)piperidin-4-ol hydrochloride | 0.39 g, 51% | Cl.C1=CC=CC=2C3=CC=CC=C3N(C12)CC(CN1CCC(CC1)(O)C1=CC=C(C=C1)OC)O | InChI=1S/C27H30N2O3.ClH/c1-32-22-12-10-20(11-13-22)27(31)14-16-28(17-15-27)18-21(30)19-29-25-8-4-2-6-23(25)24-7-3-5-9-26(24)29;/h2-13,21,30-31H,14-19H2,1H3;1H
